US07632838B2
(R)-1-(((S)-2-aminopropyl)(benzyloxycarbonyl)amino)propan-2-yl methanesulfonate (1.8 g, 5.15 mmol) dissolved in anhydrous MeOH (120 mL) was heated up to 60° C. for 4 hours. Reaction was complete as determined by TLC. After overnight stirring at room temperature solvent was evaporated to afford (3R,5R)-benzyl 3,5-dimethylpiperazine-1-carboxylate [L31285-103-1] in quantitative yield (1.28 g) as gummy off white solid.

reactant | (R)-1-(((S)-2-aminopropyl)(benzyloxycarbonyl)amino)propan-2-yl methanesulfonate | 5.15 mmol, 1.8 g | CS(=O)(=O)O[C@@H](CN(C(=O)OCC1=CC=CC=C1)C[C@H](C)N)C | C15H24N2O5S
solvent | MeOH | 120 mL | CO | CH4O
product | (3R,5R)-benzyl 3,5-dimethylpiperazine-1-carboxylate | quantitative yield | C[C@@H]1CN(C[C@H](N1)C)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
